US05721245
4 ml of a 1M solution of lithium aluminum hydride in tetrahydrofuran were added to a solution of 750 mg of ethyl 2,3-dihydro-1H-pyrrolo[1,2-a]indole-2-carboxylate in 30 ml of tetrahydrofuran. After 1 hour, 30 ml of saturated ammonium chloride solution were added and the mixture was evaporated. The residue was extracted with dichloromethane and the organic extract was dried and evaporated. Crystallization of the residue from diethyl ether/petroleum ether gave 355 mg of 2,3-dihydro-2-(hydroxymethyl)-1H-pyrrolo[1,2-a]indole of melting point 76°-78° C.

reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethyl 2,3-dihydro-1H-pyrrolo[1,2-a]indole-2-carboxylate | 750 mg | C1C(CN2C1=CC=1C=CC=CC21)C(=O)OCC | C14H15NO2
reactant | ammonium chloride | 30 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 2,3-dihydro-2-(hydroxymethyl)-1H-pyrrolo[1,2-a]indole | 355 mg | OCC1CC=2N(C=3C=CC=CC3C2)C1 | C12H13NO
